US07094789B2
Synthesis of N-[(5-isoquinolyl)sulfonyl]-1,4-butylenediamine (Intermediate 51)
According to the method of Reference Example 2, a reaction was performed by using isoquinoline-5-sulfonyl chloride hydrochloride (18.8 g) and 1,4-butylenediamine (25 g) to obtain the title compound (12.3 g).

reactant | isoquinoline-5-sulfonyl chloride hydrochloride | 18.8 g | Cl.C1=NC=CC=2C(=CC=CC12)S(=O)(=O)Cl
reactant | 1,4-butylenediamine | 25 g | C(CCCN)N | C4H12N2
product | N-[(5-isoquinolyl)sulfonyl]-1,4-butylenediamine | 12.3 g | C1=NC=CC2=C(C=CC=C12)S(=O)(=O)NCCCCN | C13H17N3O2S
